Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain  

 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
Ms. ___ is a ___ female with history of MI in ___ s/p 
stent placement at that time, followed by CABG ___ LIMA to LAD 
and hyperlipidemia who was transferred from OSH for further 
management of CP concerning of UA. She developed acute onset 
substernal cp on ___ while sleeping, radiating to neck, and 
went to OSH were work up was notable for trops neg x3, ecg at 
baseline with no concerning st chanes, and normal CTA neck to 
r/o infection. Pt continued to experience intermittent chest 
pressure that was concerning for angina and was transferred on 
the afternoon of ___ to ___ for cath. On arrival to floor, 
she continued to promote chest pressure and was found to have 
new TWI in he precoridal leads on ecg. Given changes, decision 
made to bring her to cath lab immediately.  
In the Cath lab, angiography was notable for 60% ISR LAD stent 
with FFR 0.81. It was felt that any intervention on this would 
be higher risk than benefit and it was most likely not 
responsible for current chest pain. LIMA->LAD remains patent. 
Access was obtained via RFA angioseal with borderline high stick 
 
Following cath this evening, she is resting comfortably and is 
not experiencing any cp, sob, lh, or dizziness. She has mild 
discomfort at right groin site.  
ROS: On review of systems, s/he denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. S/he denies recent 
fevers, chills or rigors. S/he denies exertional buttock or calf 
pain. All of the other review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
- CABG:CABG ___ LIMA to LAD secondary to chest pain in setting 
of  
flow-limiting stenosis  
- PERCUTANEOUS CORONARY INTERVENTIONS:MI ___ s/p stent to LAD  
- PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
Hyperlipidemia  
Depression  
Anxiety  
Endometriosis  
Uterine leimyoma  
Ovarian cyst  
Peptic ulcer disease  
Breast cysts - benign  
Abdominal pain  
PAST SURGICAL HISTORY  
Stent and CABG as above  
Colonic adenoma removed ___  
Total abdominal hysterectomy  
Temporal artery bx ___ found negative for temporal arteritis  

 
Social History:
___
Family History:
Mother had first MI in ___, stroke in late ___. Brother had  
pacemaker in late ___, MI in ___. No diabetes in the family.  
Brain+lung cancer in brother who died at age ___ of this. Breast  

cancer in daughter at age ___.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.7 123/75 58 18 94  
GEN: Lying uncomfortable in bed but in no acute distress
HEENT:  NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without JVD noted  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e, Right extremities ___ strength, left 4+/5 
upper and lower 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

DISCHARGE PHYSICAL EXAM:
VS: 98.4 ___ 96/RA
GEN: Lying uncomfortable in bed but in no acute distress
HEENT:  NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without JVD noted  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e, Right extremities ___ strength, left 4+/5 
upper and lower 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
LABS:
___ 03:12AM BLOOD WBC-9.5 RBC-3.94* Hgb-11.8* Hct-35.0* 
MCV-89 MCH-30.1 MCHC-33.9 RDW-12.5 Plt ___
___ 03:12AM BLOOD Glucose-104* UreaN-14 Creat-0.6 Na-142 
K-4.0 Cl-107 HCO3-28 AnGap-11
___ 07:31PM BLOOD cTropnT-<0.01
___ 03:12AM BLOOD Calcium-9.1 Phos-3.9 Mg-1.9

CARDIAC CATH ___:
Findings
ESTIMATED blood loss:
Hemodynamics (see above):
Coronary angiography:  right dominant
LMCA: 
LAD:  60% proximal inside prior stent which has complex
aneurysmal appearance which is stable compared with prior cath 
of
___
LCX:  normal
RCA:  normal
LIMA to distal LAD is small but patent

Interventional details
Change for 6fJL4 guide.  Pressure wire of LAD showed FFR 0.81
which indicates no need for PCI.Angioseal right femoral artery.

 
Brief Hospital Course:
PRIMARY REASON FOR ADMISSION:
___ female with history of MI in ___ s/p stent placement at 
that time, followed by CABG ___ LIMA to LAD and hyperlipidemia 
who was transferred from OSH for further management of CP 
concerning of UA.  

ACTIVE ISSUES:
# Chest pain: The patient presented with her typical anginal 
chest pain concerning for unstable angina. At OSH, she had trops 
neg x3, ecg at baseline with no concerning st chanes, and normal 
CTA neck without evidence of infection. Given new TWI on arrival 
to the floor, she underwent cardiac catheterization that showed 
some non-flow limiting 60% re-stenosis of the LAD (FFR 0.81). It 
was unclear why she continues to have these episodes of anginal 
type chest pain although the patient does endorse significant 
life stressors. She was chest pain free throughout the remainder 
of her admission. She was continued on aspirin, metorprolol, 
imdur and atorvastatin and encouraged to stop smoking. Of note, 
she was continued on her home clopidogrel, although it is 
unclear whether she needs to be on this medication as it has 
been greater than ___ year since her prior catheterization.

# Weakness: Per ___ evaluation, the patient was weaker on the 
left side than described in her most recent neurology note. She 
was encouraged to see her outpatient Neurologist soon after 
discharge. She was also recommended to have outpatient physical 
therapy for her lower back pain.

CHRONIC ISSUES
#Anxiety: Stable. Continued with prn lorazepam
#Bronchitis: Finishing up a 10 day course of levofloxacin for 
bronchitis, last day to be ___.   
#Chronic pain: Stable. Continued with her outpatient 
oxycodone/oxycontin regimen  

TRANSITIONAL ISSUES:
- She may benefit from outpatient Neurology followup
- She was given a prescription for outpatient physical therapy
- Patient was admitted on clopidogrel and this was continued on 
discharge. The need for this medication should be discussed with 
her outpatient providers.
- She would benefit from continued encouragement to stop smoking
- FULL CODE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 10 mg PO BID 
2. Clopidogrel 75 mg PO DAILY 
3. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
4. Lorazepam 0.5 mg PO BID:PRN anxiety/insomnia 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Nitroglycerin SL 0.4 mg SL PRN chest pain 
8. Sertraline 50 mg PO QHS 
9. Nicotine Patch 7 mg TD DAILY 
10. Atorvastatin 80 mg PO HS 
11. BuPROPion (Sustained Release) 150 mg PO QAM 
12. Aspirin 81 mg PO DAILY 
13. Amlodipine 2.5 mg PO DAILY 
14. OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
15. OxycoDONE (Immediate Release)  15 mg PO Q4H:PRN back pain 
16. Levofloxacin 250 mg PO Q24H 

 
Discharge Medications:
1. Outpatient Physical Therapy
Physical therapy for back pain 724.5
2. Amlodipine 2.5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO HS 
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
6. Levofloxacin 250 mg PO Q24H 
Please take as prescribed (last day ___ 
7. Lorazepam 0.5 mg PO BID:PRN anxiety/insomnia 
8. Metoprolol Succinate XL 12.5 mg PO DAILY 
9. Nitroglycerin SL 0.4 mg SL PRN chest pain 
10. OxycoDONE (Immediate Release)  15 mg PO Q4H:PRN back pain 
11. OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
12. BuPROPion (Sustained Release) 150 mg PO QAM 
13. BusPIRone 10 mg PO BID 
14. Multivitamins 1 TAB PO DAILY 
15. Nicotine Patch 7 mg TD DAILY 
16. Sertraline 50 mg PO QHS 
17. Clopidogrel 75 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- substernal chest pain

Secondary diagnoses:
- coronary artery disease
- anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure participating in your care here at ___. 
You were admitted on ___ after having chest pain. You 
underwent a cardiac cathterization that fortunately did not show 
any disease in your coronary arteries that would require 
intervention. 

You were also evaluated by the Physical Therapists who noted 
that you seem more weak than when you last saw your Neurologist. 
It will be very important that you see your Neurologist once 
discharged for futher follow-up. You are also on the medication 
called Plavix which we'd like you to discuss with your 
cardiologist about how long you need to stay on this for.

Again, it was our pleasure participating in your care here.

We wish you the very best,
-- Your ___ Medicine Team --
 
Followup Instructions:
___